US07396844B1
Synthesis of N-[3-(3-cyanophenyl)propyl]-4-cyanobenzamide
267 mg (7.23 mmol) of sodium hydride (65%) was dissolved in 8 ml of DMF in argon atmosphere. 1.43 g (6.57 mmol) of di-t-butyl iminodicarboxylate was added to the solution, and they were stirred at room temperature for 30 minutes. 1.47 g (6.57 mmol) of 3-(3-bromopropyl)benzonitrile was added to the resultant mixture. They were stirred at 45° C. for 3 hours. After the treatment with ethyl acetate as the extractant in an ordinary manner, an oily residue was obtained. This residue was dissolved in 4 N solution of hydrogen chloride in dioxane, and the solution was stirred at room temperature for 4 hours. The solvent was evaporated, and the oily residue was dissolved in 10 ml of dichloromethane. 1.63 g (9.86 mmol) of 4-cyanobenzoyl-chloride and 1.83 ml (13.4 mmol) of triethylamine were added to the solution, and they were stirred at room temperature for 5 hours. After the treatment with ethyl acetate as the extractant in an ordinary manner, the crude product was obtained, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | sodium hydride | 7.23 mmol, 267 mg | [H-].[Na+]
reactant | di-t-butyl iminodicarboxylate | 6.57 mmol, 1.43 g | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
reactant | 3-(3-bromopropyl)benzonitrile | 6.57 mmol, 1.47 g | BrCCCC=1C=C(C#N)C=CC1 | C10H10BrN
reactant | 4-cyanobenzoyl-chloride | 9.86 mmol, 1.63 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | triethylamine | 13.4 mmol, 1.83 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-(3-cyanophenyl)propyl]-4-cyanobenzamide | C(#N)C=1C=C(C=CC1)CCCNC(C1=CC=C(C=C1)C#N)=O | C18H15N3O
